US08957049B2
2-Quinoxalinol (2.9 g, 20 mmol) and silver sulfate (3.1 g, 10 mmol, 0.5 eq.) in sulfuric acid (20 mL) were treated with bromine (1.03 mL, 20 mmol, 1.0 eq.). After stirring at ambient temperature for 18 h, the reaction mixture was diluted with carbon tetrachloride (50 mL), heated to 50° C., and filtered. The filtrate was poured onto ice and the solids collected by filtration and recrystallized from HOAc, giving 6-bromo-2-quinoxalinol (1.8 g, 40%).

reactant | 2-Quinoxalinol | 20 mmol, 2.9 g | N1=C(C=NC2=CC=CC=C12)O | C8H6N2O
reactant | bromine | 20 mmol, 1.03 mL, 1.0 eq. | BrBr | Br2
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | silver sulfate | 10 mmol, 3.1 g, 0.5 eq. | S(=O)(=O)([O-])[O-].[Ag+2]
product | 6-bromo-2-quinoxalinol | 1.8 g, 40% | BrC=1C=C2N=CC(=NC2=CC1)O | C8H5BrN2O
